US06653471B2
Di-tert-butyl dicarbonate (1.09 g, 5.02 mmol) is slowly added to the solution of triethylamine (0.697 mL, 5.02 mmol), 4-dimethylaminopyridine (51 mg, 0.42 mmol) and 4-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid methyl ester (0.81 g, 4.18 mmol) in dichloromethane (15 mL). The reaction mixture is stirred at room temperature for 2 h, 8 mL sat. NaHCO3 solution is added, the layers are separated, and the aqueous phase is extracted with dichloromethane (3×10 mL). The combined organic layers are dried (Na2SO4) and evaporated. Flash chromatography on silica gel, eluting with hexanes: ethyl acetate (5:1), provides 4-oxo-4,5,6,7-tetrahydro-indole-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (1.10 g, 89%) as a colorless solid. 1H NMR (400 MHz, CDCl3) δ1.605 (9H, s), 2.126 (2H, m), 2.510 (2H, t), 3.133 (2H, t), 3.844 (3H, s), 7.701 (1H, s). MS (ES+) 294 (M+1)

reactant | Di-tert-butyl dicarbonate | 5.02 mmol, 1.09 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 5.02 mmol, 0.697 mL | C(C)N(CC)CC | C6H15N
reactant | 4-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid methyl ester | 4.18 mmol, 0.81 g | COC(=O)C1=CNC=2CCCC(C12)=O | C10H11NO3
reactant | NaHCO3 | 8 mL | C(=O)(O)[O-].[Na+]
catalyst | 4-dimethylaminopyridine | 0.42 mmol, 51 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 4-oxo-4,5,6,7-tetrahydro-indole-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 1.10 g, 89% | COC(=O)C1=CN(C=2CCCC(C12)=O)C(=O)OC(C)(C)C | C15H19NO5
